US07951951B2
4-[(6-Chloropyridin-3-yl)methyl]-6,6a-dihydro-2H-furo [3,2-b]pyrrol-2,5(4H)-dione
569 mg (2.17) of triphenylphosphine are added to 712 mg (1.97 mmol) of 1-[(6-chloropyridin-3-yl)methyl]-2,5-dioxopyrrolidin-3-yl bromoacetate (XI-1) in 40 ml of acetonitrile, and the mixture is stirred at 50° C. for 3 hours. 0.29 ml (2.08 mmol) of triethylamine is added, and the mixture is stirred at 50° C. for about 16 hours. The entire reaction mixture is concentrated under reduced pressure and the residue that remains is then taken up in a little ethyl acetate, the insoluble solid is filtered off and the filtrate is purified by column chromatography on silica gel (silica gel 60, Merck, particle size: 0.04 to 0.063 mm) using the mobile phase ethyl acetate. This gives 305 mg (59% of theory) of 4-[(6-chloropyridin-3-yl)methyl]-6,6a-dihydro-2H-furo[3,2-b]pyrrol-2,5(4H)-dione.

reactant | triphenylphosphine | 569 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 1-[(6-chloropyridin-3-yl)methyl]-2,5-dioxopyrrolidin-3-yl bromoacetate | 1.97 mmol, 712 mg | BrCC(=O)OC1C(N(C(C1)=O)CC=1C=NC(=CC1)Cl)=O | C12H10BrClN2O4
reactant | triethylamine | 2.08 mmol, 0.29 ml | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 4-[(6-Chloropyridin-3-yl)methyl]-6,6a-dihydro-2H-furo [3,2-b]pyrrol-2,5(4H)-dione | ClC1=CC=C(C=N1)CN1C=2C(CC1=O)OC(C2)=O | C12H9ClN2O3
